US07932271B2
[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]amine
To an ethanol (5 ml) solution of t-butyl[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]carbamate (200 mg, 0.393 mmol) was added concentrated hydrochloric acid (6 ml). The resulting mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added a saturated aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was washed sequentially with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was recrystallized from hexane:ethyl acetate to give the title compound (125 mg, 0.306 mmol, 78%) as a white powder.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | t-butyl[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]carbamate | 0.393 mmol, 200 mg | C(C)(C)(C)OC(NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)C)=O | C24H23ClF2N2O4S
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]amine | 0.306 mmol, 125 mg, 78% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1C)N)C1=C(C=CC(=C1)F)F | C19H15ClF2N2O2S
